US04166860
47.5 g. histamine (0.401 mole) and 71.66 g. (0.409 mole) O-m-tolyl-N-cyanoisourea are combined in 500 ml. of isopropanol. The mixture is then heated for 10 minutes to reflux, refluxed for one hour, and the reaction mixture is stripped to an oil. The oil is taken up in 2 l. of isopropanol and 102 ml. conc. HCl, heated 25 minutes to reflux, refluxed for 35 minutes, cooled slowly, then with ice. The mixture is filtered to obtain 1-[2-(4-imidazolyl)ethylamidino]urea dihydrochloride as a crude product. This is recrystallized from MeOH/CH3CN to obtain 1-[2-(4-imidazolyl)ethylamidino]urea dihydrochloride with a m.p. of 180.5°-181.5° C.

reactant | histamine | 0.401 mole | NCCC1=CNC=N1 | C5H9N3
reactant | O-m-tolyl-N-cyanoisourea | 0.409 mole | C1(=CC(=CC=C1)OC(NC#N)=N)C | C9H9N3O
reactant | HCl | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-[2-(4-imidazolyl)ethylamidino]urea dihydrochloride | Cl.Cl.N1C=NC(=C1)CCNC(=N)NC(=O)N | InChI=1S/C7H12N6O.2ClH/c8-6(13-7(9)14)11-2-1-5-3-10-4-12-5;;/h3-4H,1-2H2,(H,10,12)(H5,8,9,11,13,14);2*1H
